US08247576B2
48A. [2-(4-Bromo-phenyl)-2-hydroxy-ethyl]-methyl-carbamic acid tert-butyl ester
BOC2O (1.90 g, 8.69 mmol) was added to a solution of 1-(4-Bromo-phenyl)-2-methylamino-ethanol (2.00 g, 8.69 mmol) in dichloromethane (20 ml). After stirring at room temperature for 16 hours the solvent was removed under reduced pressure and the crude product was purified by column chromatography (SiO2), eluting with ethyl acetate/petroleum ether (1:4) to yield the desired product (2.1 g). LC/MS: (PS-B3) Rt 3.16 [M+H]+ 330.

reactant | BOC2O | 8.69 mmol, 1.90 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
reactant | 1-(4-Bromo-phenyl)-2-methylamino-ethanol | 8.69 mmol, 2.00 g | BrC1=CC=C(C=C1)C(CNC)O | C9H12BrNO
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | [2-(4-Bromo-phenyl)-2-hydroxy-ethyl]-methyl-carbamic acid tert-butyl ester | 2.1 g | C(C)(C)(C)OC(N(C)CC(O)C1=CC=C(C=C1)Br)=O | C14H20BrNO3
